US08138187B2
3-(1H-Indol-3-yl)propanol (1.75 g, 10 mmol) was initially introduced into dry THF (30 ml), and first hexamethyldisilazane (10 ml, 47 mmol), followed by trimethylchlorosilane (2 ml, 15.7 mmol) was added at RT. The mixture was stirred at RT for 20 h, the solvent was then removed on a rotary evaporator and the residue was rendered basic with saturated NaHCO3 solution. The aqueous solution was extracted with ether (3×30 ml). The combined organic phases were washed with H2O (2×20 ml) and dried over Na2SO4. Removal of the solvent on a rotary evaporator gave 3-(3-trimethylsilanyloxypropyl)-1H-indole (2.46 g, 100%, m.p.: 34-38° C.) as a crystalline solid.

reactant | 3-(1H-Indol-3-yl)propanol | 10 mmol, 1.75 g | N1C=C(C2=CC=CC=C12)CCCO | C11H13NO
reactant | hexamethyldisilazane | 47 mmol, 10 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | 15.7 mmol, 2 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(3-trimethylsilanyloxypropyl)-1H-indole | 2.46 g, 100% | C[Si](OCCCC1=CNC2=CC=CC=C12)(C)C | C14H21NOSi
